US07601856B2
Following the procedure of Example 40, 2-chloro-N-7,8,9,10-tetrahydro-6H-benzo[b]cyclohepta[d]furan-2-ylacetamide (0.13 g, 0.45 mmol), N,N,N′-trimethylethylenediamine (0.073 mL, 0.56 mmol), and cesium carbonate (0.29 g, 0.90 mmol) in acetonitrile (5 mL) provided N2-[2-(dimethylamino)ethyl]-N2-methyl-N1-7,8,9,10-tetrahydro-6H-benzo[b]cyclohepta[d]furan-2-ylglycinamide (0.058 g) as its hydrochloride salt after normal phase HPLC purification and treatment with 4 N hydrochloric acid in dioxane. MS (ESI) m/z 344 ([M+H]+).

reactant | 2-chloro-N-7,8,9,10-tetrahydro-6H-benzo[b]cyclohepta[d]furan-2-ylacetamide | 0.45 mmol, 0.13 g | ClCC(=O)NC1=CC2=C(OC3=C2CCCCC3)C=C1 | C15H16ClNO2
reactant | N,N,N′-trimethylethylenediamine | 0.56 mmol, 0.073 mL | CN(CCNC)C | C5H14N2
reactant | cesium carbonate | 0.90 mmol, 0.29 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | N2-[2-(dimethylamino)ethyl]-N2-methyl-N1-7,8,9,10-tetrahydro-6H-benzo[b]cyclohepta[d]furan-2-ylglycinamide | 0.058 g | CN(CCN(CC(=O)NC1=CC2=C(OC3=C2CCCCC3)C=C1)C)C | C20H29N3O2
